US06479490B2
To a solution of N-methylindole (1.16 mL, 9.1 mmol) in diethyl ether (70 mL) at 0° C. was added dropwise oxalyl chloride (0.83 mL, 1.1 eq.). After the additon, the reaction mixture was stirred at 0° C. for 15 min., and the volatiles were removed under vacuo. The residue was re-dissolved in dichloromethane (70 mL) and triethylamine (2.3 mL, 2 eq.) was added. The reaction mixture was cooled to 0° C. and a solution of 3-(3-chloro-propyloxy)phenylacetic acid (2.73 g, 10 mmol) in dichloromethane (70 mL) was added dropwise. The resulting mixture was stirred at 0° C., and then allowed to warm up to room temperature overnight. Volatiles were removed under vacuo and the residue was purified on a silica gel column with dichloromethane to give 3-(1-methylindol-3-yl)-4-[3-(3-chloropropyloxy)phenyl]furan-2,5-dione (1.1 g).

reactant | N-methylindole | 9.1 mmol, 1.16 mL | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | oxalyl chloride | 0.83 mL, 1.1 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 2.3 mL, 2 eq. | C(C)N(CC)CC | C6H15N
reactant | 3-(3-chloro-propyloxy)phenylacetic acid | 10 mmol, 2.73 g | ClCCCOC=1C=C(C=CC1)CC(=O)O | C11H13ClO3
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 3-(1-methylindol-3-yl)-4-[3-(3-chloropropyloxy)phenyl]furan-2,5-dione | 1.1 g | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CC(=CC=C1)OCCCCl)=O)=O | C22H18ClNO4
